US03978057
A solution of 10 g. of 4-methylamino-6-chloro-3-hydrazinopyridazine in 450 ml. of methanol and 150 ml. of 0.5 N sodium hydroxide in methanol are charged into a Paar shaker. To this solution, 2 g. of 10% palladium on carbon is added. The Paar shaker is charged with hydrogen at room temperature to an initial pressure of 50 psi and shaken. After about 6.5 hours, the reaction mixture is filtered, the solvent evaporated and the residue extracted with chloroform. The chloroform solution is evaporated to dryness and the 4-methylamino-3-hydrazinopyridazine obtained is dissolved in methanol. Hydrogen chloride gas is bubbled in, and the 4-methylamino-3-hydrazinopyridazine dihydrochloride (m.p. 247°-251°C.) which precipitates is collected by filtration.

reactant | 4-methylamino-6-chloro-3-hydrazinopyridazine | CNC1=C(N=NC(=C1)Cl)NN | C5H8ClN5
reactant | sodium hydroxide | 0.5 N | [OH-].[Na+]
reactant | hydrogen | [H][H] | H2
solvent | methanol | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
product | 4-methylamino-3-hydrazinopyridazine | CNC1=C(N=NC=C1)NN | C5H9N5
